US05817671
N-[isopropyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea
Beginning with 0.15 gm (0.65 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.077 mL (0.78 mMol) isopropyl isocyanate, 0.146 gm (71%) of the title compound were recovered essentially by the procedure of Example 122. An analytical sample was crystallized from aqueous ethanol.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.65 mMol, 0.15 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | isopropyl isocyanate | 0.78 mMol, 0.077 mL | C(C)(C)N=C=O | C4H7NO
product | N-[isopropyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]urea | 0.146 gm, 71% | C(C)(C)NC(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C17H25N5O
